US06071932
1-(3-(9H-Carbazol-9-yl)-2-hydroxy-1-propyl)-4-phenylpiperidin-4-ol hydrochloride (Compound 26)
4-Phenylpiperidin-4-ol (0.77 g, 0.0043 mol) was dissolved in 4-methyl-pentan-2-one (40 mL), K2CO3 (1.59 g, 0.0116 mol) and 9-(3-chloro-2-hydroxy-1-propyl)carbazole (0.75 g, 0.0029 mol) were added, and the resulting mixture was stirred at reflux temperature overnight. The reaction mixture was filtered and the solvent was removed in vacuo. The residual oil was purified on a silica gel column (Eluent: CH2Cl2 /ethanol/25% NH4OH (aq) (92.75:7:0.25)), and further purified on a silica gel column (Eluent: Gradient 1) ethyl acetate/methanol (20:1); 2) ethyl acetate/methanol (3:1); 3) CH2Cl2 /methanol (9:1)). The product was acidified with 2M HCl(g) in diethyl ether, to give the title compound 0.77 g (61%). M.p. decomposes at 193-224° C.

reactant | 4-Phenylpiperidin-4-ol | 0.0043 mol, 0.77 g | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | K2CO3 | 0.0116 mol, 1.59 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 9-(3-chloro-2-hydroxy-1-propyl)carbazole | 0.0029 mol, 0.75 g | ClCC(CN1C2=CC=CC=C2C=2C=CC=CC12)O | C15H14ClNO
solvent | 4-methyl-pentan-2-one | 40 mL | CC(CC(C)=O)C | C6H12O
product | 1-(3-(9H-Carbazol-9-yl)-2-hydroxy-1-propyl)-4-phenylpiperidin-4-ol hydrochloride | 0.77 g, 61% | Cl.C1=CC=CC=2C3=CC=CC=C3N(C12)CC(CN1CCC(CC1)(O)C1=CC=CC=C1)O | InChI=1S/C26H28N2O2.ClH/c29-21(18-27-16-14-26(30,15-17-27)20-8-2-1-3-9-20)19-28-24-12-6-4-10-22(24)23-11-5-7-13-25(23)28;/h1-13,21,29-30H,14-19H2;1H
